US07354932B2
To a solution of triphenylphosphine (10.9 g, 41.5 mmol), 3-buten-ol (2.49 g, 34.6 mmol) and 2-bromo-3-pyridinol (6.01 g, 34.6 mmol) in THF (200 mL) at 0° C. was added diisopropyl azodicarboxylate (7.49 mL, 38.0 mmol) very slowly. Ice bath was removed after addition of diisopropyl azodicarboxylate and the mixture was allowed to stir at 50° C. for 20 hours under argon. The reaction mixture was diluted with EtOAc (300 mL), and washed with sat. NaHCO3 (2×150 mL), brine (2×150 mL) and dried over Na2SO4. Evaporation of the solvent and purification of the residue by flash chromatography on silica gel (Hexanes/EtOAc, 90:10 followed by 85:15) afforded 2-bromo-3-but-3-enyloxy-pyridine (7.04 g, 89%) as a colourless oil. 1H NMR (CDCl3) δ 2.58-2.66 (m, 2H), 4.08 (t, 2H, J=6.9 Hz), 5.13-5.24 (m, 2H), 5.87-5.98 (m, 1H), 7.10-7.14 (m, 1H), 7.18-7.22 (m, 1H), 7.97 (dd, 1H, J=6.0, 1.5 Hz).

reactant | triphenylphosphine | 41.5 mmol, 10.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-buten-ol | 34.6 mmol, 2.49 g | C(CC=C)O | C4H8O
reactant | 2-bromo-3-pyridinol | 34.6 mmol, 6.01 g | BrC1=NC=CC=C1O | C5H4BrNO
reactant | diisopropyl azodicarboxylate | 38.0 mmol, 7.49 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-bromo-3-but-3-enyloxy-pyridine | 7.04 g, 89% | BrC1=NC=CC=C1OCCC=C | C9H10BrNO
